US04091220
To a solution of 0.423 part of N1 -(morpholinocarbonylmethyl)-N4 -(2-amino-3,5-dibromobenzyl)piperazine in 4 volume parts of pyridine is added 0.25 part of benzoylchloride, and the mixture is kept standing overnight at room temperature. The solvent is distilled off, and residue is chromatographed over alumina. Ethyl acetate eluates gives oily substance. The resultant oily substance is treated with ethanolic hydrochloric acid, and to the resultant is added isopropyl ether to give N1 -morpholinocarbonylmethyl-N4 -(2-monobenzoylamino-3,5-dibromobenzyl)piperazine hydrochloride melting at 162° to 164° C.

reactant | N1 -(morpholinocarbonylmethyl)-N4 -(2-amino-3,5-dibromobenzyl)piperazine | O1CCN(CC1)C(=O)CN1CCN(CC1)CC1=C(C(=CC(=C1)Br)Br)N | C17H24Br2N4O2
reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N1 -morpholinocarbonylmethyl-N4 -(2-monobenzoylamino-3,5-dibromobenzyl)piperazine hydrochloride | Cl.O1CCN(CC1)C(=O)CN1CCN(CC1)CC1=C(C(=CC(=C1)Br)Br)NC(C1=CC=CC=C1)=O | InChI=1S/C24H28Br2N4O3.ClH/c25-20-14-19(23(21(26)15-20)27-24(32)18-4-2-1-3-5-18)16-28-6-8-29(9-7-28)17-22(31)30-10-12-33-13-11-30;/h1-5,14-15H,6-13,16-17H2,(H,27,32);1H
